* NGSPICE file created from fgcell_amp_MiM_cap_1_5_cx.ext - technology: sky130A

.subckt fgcell_amp_MiM_cap_1_5_cx vfg vctrl vinj row_en_b vsrc vtun VGND vout row_en
+ vb
X0 a_3091_n2368# vfg vsrc vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.145 pd=1.29 as=0.29 ps=2.58 w=1 l=0.5
X1 x1.x2.v2 row_en vout vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.145 pd=1.58 as=0.0725 ps=0.79 w=0.5 l=0.5
X2 x1.x2.int2 x1.x2.int3 vinj vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X3 x1.x2.int1 vb x1.x2.int5 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X4 vinj x1.x2.int3 x1.x2.int3 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
X5 x1.x2.int5 vb VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
X6 x1.x2.v2 row_en_b vout VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X7 x1.x2.int4 x1.x2.int4 vinj vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X8 vout row_en_b x1.x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X9 vinj x1.x2.int4 x1.x2.v2 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
X10 x1.x2.int4 vfg x1.x2.int1 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X11 x1.x2.v2 row_en_b vout VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X12 x1.x2.v2 row_en vout vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X13 vout row_en_b x1.x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X14 vout row_en_b x1.x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X15 x1.x2.int1 x1.x2.v2 x1.x2.int3 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
X16 vout row_en x1.x2.v2 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X17 x1.x2.v2 row_en_b vout VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X18 x1.x2.v2 row_en vout vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X19 vout row_en x1.x2.v2 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.145 ps=1.58 w=0.5 l=0.5
X20 vfg VGND sky130_fd_pr__cap_mim_m3_1 l=1 w=5
X21 vout row_en x1.x2.v2 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X22 vout row_en_b x1.x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X23 vctrl vfg vctrl vctrl sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.58 ps=5.16 w=1 l=0.5
X24 vfg vtun VGND sky130_fd_pr__cap_var w=1 l=0.5
X25 x1.x2.int2 x1.x2.int2 VGND VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.75 pd=4 as=0.375 ps=2 w=1.5 l=1
X26 x1.x2.v2 row_en vout vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X27 vinj row_en a_3091_n2368# vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.29 pd=2.58 as=0.145 ps=1.29 w=1 l=0.5
X28 x1.x2.v2 row_en_b vout VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.145 pd=1.58 as=0.0725 ps=0.79 w=0.5 l=0.5
X29 vout row_en x1.x2.v2 vinj sky130_fd_pr__pfet_g5v0d10v5 ad=0.0725 pd=0.79 as=0.0725 ps=0.79 w=0.5 l=0.5
X30 VGND x1.x2.int2 x1.x2.v2 VGND sky130_fd_pr__nfet_g5v0d10v5 ad=0.375 pd=2 as=0.75 ps=4 w=1.5 l=1
C0 vout x1.x2.v2 0.98665f
C1 vinj x1.x2.int4 0.73788f
C2 row_en x1.x2.v2 0.99537f
C3 row_en vinj 2.13605f
C4 x1.x2.v2 x1.x2.int3 0.95124f
C5 x1.x2.int3 vinj 1.83213f
C6 x1.x2.int4 x1.x2.int2 0.74292f
C7 vout row_en_b 0.94546f
C8 vfg vinj 1.2043f
C9 row_en_b VGND 2.17805f
C10 vb VGND 0.88836f
C11 vfg VGND 2.38837f
C12 row_en VGND 0.87583f
C13 vctrl VGND 1.87257f
C14 vtun VGND 1.75726f
C15 vinj VGND 10.24158f
C16 x1.x2.v2 VGND 2.05373f
C17 x1.x2.int3 VGND 1.68516f
C18 x1.x2.int4 VGND 1.09639f
C19 x1.x2.int2 VGND 1.42335f
.ends

