** sch_path: /home/amedcalf/projects/ci2406_fgcaptest/xschem/array_row_decode.sch
.subckt array_row_decode VPWR VGND a[4] a[3] a[2] a[1] a[0] w[31] w[30] w[29] w[28] w[27] w[26] w[25] w[24] w[23] w[22] w[21]
+ w[20] w[19] w[18] w[17] w[16] w[15] w[14] w[13] w[12] w[11] w[10] w[9] w[8] w[7] w[6] w[5] w[4] w[3] w[2] w[1] w[0]
*.PININFO a[4:0]:I VPWR:I VGND:I w[31:0]:O
x1 a[4] VGND VGND VPWR VPWR a[4]_b sky130_fd_sc_hd__inv_1
x2 a[3] VGND VGND VPWR VPWR a[3]_b sky130_fd_sc_hd__inv_1
x3 a[2] VGND VGND VPWR VPWR a[2]_b sky130_fd_sc_hd__inv_1
x4 a[1] VGND VGND VPWR VPWR a[1]_b sky130_fd_sc_hd__inv_1
x5 a[0] VGND VGND VPWR VPWR a[0]_b sky130_fd_sc_hd__inv_1
x13 a[2] a[3] VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__nand2_2
x6 a[0]_b a[1]_b VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__nand2_2
x7 a[0] a[1]_b VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__nand2_2
x8 a[0]_b a[1] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__nand2_2
x9 a[0] a[1] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__nand2_2
x10 a[2]_b a[3]_b VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__nand2_2
x11 a[2] a[3]_b VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__nand2_2
x12 a[2]_b a[3] VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__nand2_2
x14 net1 net2 a[4] VGND VGND VPWR VPWR w[0] sky130_fd_sc_hd__nor3_1
x15 net3 net2 a[4] VGND VGND VPWR VPWR w[1] sky130_fd_sc_hd__nor3_1
x16 net4 net2 a[4] VGND VGND VPWR VPWR w[2] sky130_fd_sc_hd__nor3_1
x17 net5 net2 a[4] VGND VGND VPWR VPWR w[3] sky130_fd_sc_hd__nor3_1
x18 net1 net6 a[4] VGND VGND VPWR VPWR w[4] sky130_fd_sc_hd__nor3_1
x19 net3 net6 a[4] VGND VGND VPWR VPWR w[5] sky130_fd_sc_hd__nor3_1
x20 net4 net6 a[4] VGND VGND VPWR VPWR w[6] sky130_fd_sc_hd__nor3_1
x21 net5 net6 a[4] VGND VGND VPWR VPWR w[7] sky130_fd_sc_hd__nor3_1
x22 net1 net7 a[4] VGND VGND VPWR VPWR w[8] sky130_fd_sc_hd__nor3_1
x23 net3 net7 a[4] VGND VGND VPWR VPWR w[9] sky130_fd_sc_hd__nor3_1
x24 net4 net7 a[4] VGND VGND VPWR VPWR w[10] sky130_fd_sc_hd__nor3_1
x25 net5 net7 a[4] VGND VGND VPWR VPWR w[11] sky130_fd_sc_hd__nor3_1
x26 net1 net8 a[4] VGND VGND VPWR VPWR w[12] sky130_fd_sc_hd__nor3_1
x27 net3 net8 a[4] VGND VGND VPWR VPWR w[13] sky130_fd_sc_hd__nor3_1
x28 net4 net8 a[4] VGND VGND VPWR VPWR w[14] sky130_fd_sc_hd__nor3_1
x29 net5 net8 a[4] VGND VGND VPWR VPWR w[15] sky130_fd_sc_hd__nor3_1
x30 net1 net2 a[4]_b VGND VGND VPWR VPWR w[16] sky130_fd_sc_hd__nor3_1
x31 net3 net2 a[4]_b VGND VGND VPWR VPWR w[17] sky130_fd_sc_hd__nor3_1
x32 net4 net2 a[4]_b VGND VGND VPWR VPWR w[18] sky130_fd_sc_hd__nor3_1
x33 net5 net2 a[4]_b VGND VGND VPWR VPWR w[19] sky130_fd_sc_hd__nor3_1
x34 net1 net6 a[4]_b VGND VGND VPWR VPWR w[20] sky130_fd_sc_hd__nor3_1
x35 net3 net6 a[4]_b VGND VGND VPWR VPWR w[21] sky130_fd_sc_hd__nor3_1
x36 net4 net6 a[4]_b VGND VGND VPWR VPWR w[22] sky130_fd_sc_hd__nor3_1
x37 net5 net6 a[4]_b VGND VGND VPWR VPWR w[23] sky130_fd_sc_hd__nor3_1
x38 net1 net7 a[4]_b VGND VGND VPWR VPWR w[24] sky130_fd_sc_hd__nor3_1
x39 net3 net7 a[4]_b VGND VGND VPWR VPWR w[25] sky130_fd_sc_hd__nor3_1
x40 net4 net7 a[4]_b VGND VGND VPWR VPWR w[26] sky130_fd_sc_hd__nor3_1
x41 net5 net7 a[4]_b VGND VGND VPWR VPWR w[27] sky130_fd_sc_hd__nor3_1
x42 net1 net8 a[4]_b VGND VGND VPWR VPWR w[28] sky130_fd_sc_hd__nor3_1
x43 net3 net8 a[4]_b VGND VGND VPWR VPWR w[29] sky130_fd_sc_hd__nor3_1
x44 net4 net8 a[4]_b VGND VGND VPWR VPWR w[30] sky130_fd_sc_hd__nor3_1
x45 net5 net8 a[4]_b VGND VGND VPWR VPWR w[31] sky130_fd_sc_hd__nor3_1
x46 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x47 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x48 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x49 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x50 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x51 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x52 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x54 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x55 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x56 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x57 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x58 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x59 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x60 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x61 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x62 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x63 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x64 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x65 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x66 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x67 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x68 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x69 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x70 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x71 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x72 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x73 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x74 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x75 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x76 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x78 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x79 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x80 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x81 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x82 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x83 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x84 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x85 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x86 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x87 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x88 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x89 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x90 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x91 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x92 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x93 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x94 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x95 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x96 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x97 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x98 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x99 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x100 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x101 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x102 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x103 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x104 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x105 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x106 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x107 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x108 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x109 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x110 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x111 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x112 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x114 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x115 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x116 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x117 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x118 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x119 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x120 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x121 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x122 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x123 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x124 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x125 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x126 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x127 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x128 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x129 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x130 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x131 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x132 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x133 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x134 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x135 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x136 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x137 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x138 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x139 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x140 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x141 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x142 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x143 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
x144 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x145 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
x146 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
**** begin user architecture code
 .lib /home/amedcalf/open-asic/pdk/sky130A/libs.tech/combined/sky130.lib.spice tt

.include /home/amedcalf/open-asic/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice



**** end user architecture code
.ends
